data/mechanisms/records/IMS8-EQ8.59.json
{"mechanism_id": "IMS8-EQ8.59", "species": [{"species_id": "trimethylcyclohexanone_molecular_ion", "mapped_smiles": "[C:1]1(=[O+:2])[CH2:3][C:4]([CH3:8])([CH3:9])[CH2:5][CH:6]([CH3:10])[CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "carbon_monoxide_neutral_loss", "mapped_smiles": "[C-:1]#[O+:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "trimethylcyclopentane_radical_cation_mz112", "mapped_smiles": "[CH2+:3][C:4]([CH3:8])([CH3:9])[CH2:5][CH:6]([CH3:10])[CH2:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["trimethylcyclohexanone_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["carbon_monoxide_neutral_loss", "trimethylcyclopentane_radical_cation_mz112"]}], "steps": [{"step_id": "step_co_loss_alpha_inductive", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage_inductive_co_loss", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_co_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_co_loss_alpha_inductive", "support_type": "textbook_proposed", "locator": {"page": 185, "equation": "8.59", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "RE-EXTRACTED 2026-07-28 at native scan resolution (pypdf page.images[0], 1375x2016, cropped and upscaled 9x on the arrowheads) after this record was quarantined for unfaithfulness. Eq 8.59: the 3,3,5-trimethylcyclohexanone molecular ion (C9H16O+., '+.' printed on the carbonyl O) loses CO and contracts to the 1,1,3-trimethylcyclopentane radical cation, m/z 112, 25% (both printed under the product). The reaction arrow is labelled 'i, a' - the book itself declares the step to be BOTH inductive and alpha, and the drawing matches that: it is a MIXED arrow set, not a uniform one. ARC COUNT: 4 arcs are drawn. (1) a single-barbed fishhook from the odd electron of the O '+.' curving down into the C1-O bond = move <1>; (2) the RIGHT-hand arc, tail on the C1-C7 ring bond (C7 = the alpha CH2 on the methyl-bearing side), single-barbed, head pointing left at the C1-O bond = move <2>; (3) the in-ring arc beneath the carbonyl carbon, depicting closure of the new C3...C7 bond that forms the five-membered ring; (4) the LEFT-hand arc, tail on the C1-C3 ring bond (C3 = the alpha CH2 adjacent to the gem-dimethyl carbon C4), whose head is a FULL two-barbed arrowhead = the 'i' (inductive, 2-electron) move <4>, which drops the C1-C3 bonding PAIR onto C1 and leaves C3 as the cation. CORRECTION vs the quarantined version: that version (a) called all four arcs single-barbed fishhooks and (b) put the 2-electron move on the C1-C7 bond, which swapped the charge and radical termini relative to the drawing. Both are fixed here; the discarded 'HONEST READING' paragraph, which argued the printed arc set was 'over-specified/informal', was an artefact of that miscount and has been removed. Move <3> (the second electron of the C1-C7 bond onto C7, giving the radical terminus) is an implicit homolysis hook required for electron balance - the page draws the ring-closure arc rather than this hook. PRODUCT ENCODING (disclosed): the page draws the CLOSED 1,1,3-trimethylcyclopentane ring in brackets with '+.', but a saturated carbocycle radical cation has no valid localized mapped SMILES (every ring CH2 already has four bonds), so the ring-OPEN distonic form is encoded, with the charge on C3 and the odd electron on C7 exactly as the drawn arrows place them; the ring-closing bond itself is not encoded because it cannot be balanced from the one remaining odd electron. CO leaves as [C-]#[O+], the standard closed-shell encoding. m/z 112.1247 is curator-computed for the instantiated product; the page prints the nominal 'm/z 112, 25%', so relative_intensity 0.25 IS a printed value."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 140.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_112", "species_id": "trimethylcyclopentane_radical_cation_mz112", "step_id": "step_co_loss_alpha_inductive", "observed_mz": 112.1247, "relative_intensity": 0.25, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
